US09120884B2
A 2000 mL round flask was charged with 9,9-dimethyl-9H-fluorene (50 g, 257.4 mmol) and 2-bromo-2-methylpropanoyl bromide (61.0 g, 265.1 mmol), and then dissolved with 700 mL of carbon disulfide inputted thereto. Then, the reactor was cooled with ice water. Under nitrogen atmosphere, aluminum trichloride (85.8 g, 643.4 mmol) was slowly added thereto in ten lots over 2 hours. The mixture was stirred at room temperature for 8 hours, and then the reaction was terminated by addition of 500 mL of distilled water. The resultant mixture was diluted by adding 500 mL of methyl chloride and washed with 500 mL of distilled water three times. The organic layer was dried over magnesium sulfate, followed by removal of volatile materials and drying, and then recrystallized by using methyl chloride and methanol, to thereby obtain 64.0 g of 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one (yield: 94.8%) as white solid.

reactant | 9,9-dimethyl-9H-fluorene | 257.4 mmol, 50 g | CC1(C2=CC=CC=C2C=2C=CC=CC12)C | C15H14
reactant | 2-bromo-2-methylpropanoyl bromide | 265.1 mmol, 61.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | aluminum trichloride | 643.4 mmol, 85.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulfide | 700 mL | C(=S)=S | CS2
product | 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one | 64.0 g, yield: 94.8% | CC1CC=2C(=CC=3C(C4=CC=CC=C4C3C2)(C)C)C1=O | C19H18O
